US07462639B2
[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-carbamic acid 2-chloro-benzyl ester
[3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-carbamic acid 2-chloro-benzyl ester was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (250 mg, 0.81 mmol) and 2-chlorobenzyl chloroformate (135 μl, 0.89 mmol). The title compound was obtained as yellow powder (227 mg, 58%).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.81 mmol, 250 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | 2-chlorobenzyl chloroformate | 0.89 mmol, 135 μl | ClC(=O)OCC1=C(C=CC=C1)Cl | C8H6Cl2O2
product | [3-(5-Ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-carbamic acid 2-chloro-benzyl ester | ClC1=C(COC(NC=2C(=NNC2)C2=NC=3C(=CC=4C(C(N(C4C3)CC)=O)(C)C)N2)=O)C=CC=C1 | C24H23ClN6O3
